US09193707B2
3. Synthesis of methyl 2-(benzyloxy)-3-(dimethylamino)benzoate
Into a 2000-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed methyl 3-amino-2-(benzyloxy)benzoate (17 g, 66.07 mmol, 1.00 equiv), acetic acid (360 mL) and (CHO)n (11.91 g, 6.00 equiv). This was followed by the addition of NaBH3CN (25 g, 6.00 equiv) in several batches at 0° C. The resulting solution was stirred overnight at 25° C. The pH value of the solution was adjusted to 7 with sodium hydroxide (cooled) (1 mol/L). The resulting solution was extracted with 3×100 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:15). This resulted in 16 g (85%) of methyl 2-(benzyloxy)-3-(dimethylamino)benzoate as yellow oil. MS (ESI) m/z 286 ([M+H]+).

reactant | methyl 3-amino-2-(benzyloxy)benzoate | 66.07 mmol, 17 g, 1.00 equiv | NC=1C(=C(C(=O)OC)C=CC1)OCC1=CC=CC=C1 | C15H15NO3
reactant | NaBH3CN | 25 g, 6.00 equiv | [BH3-]C#N.[Na+]
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
reactant | acetic acid | 360 mL | C(C)(=O)O | C2H4O2
product | methyl 2-(benzyloxy)-3-(dimethylamino)benzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1N(C)C | C17H19NO3
